US09029295B2
Production of 4-(2,6-diethyl-4-methylphenyl)-6-methoxymethoxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone (Compound (I-7-1))
To a solution of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone (120 mg, 0.317 mmol) in dry DMF (2 ml) was added 60% sodium hydride (20 mg, 0.50 mmol) at 5° C. under nitrogen atmosphere. The mixture was stirred for 5 minutes, and then 80% chloromethyl methyl ether (0.04 ml, 0.47 mmol) was added. After ice-bath was removed, the mixture was stirred at room temperature for further 30 minutes. The reaction solution was diluted with water, and extracted with ethyl acetate 2 times. The combined organic layer was washed with water 2 times, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 115 mg of Compound (I-7-1) as oil (yield: 85%).

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 0.317 mmol, 120 mg | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)O)C)=O | C23H26N2O3
reactant | sodium hydride | 0.50 mmol, 20 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.47 mmol, 0.04 ml | COCCl | C2H5ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(2,6-diethyl-4-methylphenyl)-6-methoxymethoxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 115 mg, yield: 85% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)OCOC)C)=O | C25H30N2O4
